US07842324B2
(5-phenylisoxazol-3-yl)methyl methanesulfonate
To a solution of 5-phenylisoxazole-3-carbaldehyde (500 mg, 2.89 mmol) in MeOH (10 mL) at 0° C., was added NaBH4 (327 mg, 8.67 mmol). The reaction was slowly warmed to room temperature, stirred for 15 h and concentrated in vacuo. The solid obtained was dissolved in EtOAc, washed with H2O (1×) and saturated NH4Cl (3×). The organic layers were combined, dried over MgSO4, filtered, concentrated and dissolved in anhydrous CH2Cl2 (8 mL). The mixture was cooled to 0° C., followed by addition of Et3N (1.02 mL, 7.25 mmol) and methanesulfonyl chloride (337 μL, 4.35 mmol). The reaction was slowly warmed to room temperature and stirred for 15 h. Upon completion, the reaction was quenched with aqueous NaHCO3 (5 mL) and extracted with EtOAc. The combined organic layers were washed with NaHCO3 (2×), dried over MgSO4, filtered, concentrated and carried onto the next step without further purification.

reactant | 5-phenylisoxazole-3-carbaldehyde | 2.89 mmol, 500 mg | C1(=CC=CC=C1)C1=CC(=NO1)C=O | C10H7NO2
reactant | NaBH4 | 8.67 mmol, 327 mg | [BH4-].[Na+]
reactant | Et3N | 7.25 mmol, 1.02 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.35 mmol, 337 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | MeOH | 10 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-phenylisoxazol-3-yl)methyl methanesulfonate | CS(=O)(=O)OCC1=NOC(=C1)C1=CC=CC=C1 | C11H11NO4S
